US07105577B2
Synthesis of 4-(2-t-Butyl-5-methylphenoxy)phenol
7.1 g (0.026 mol) of 4-(2-t-Butyl-5-methylphenoxy)-methoxybenzene are heated with 15.0 g (0.13 mol) pyridinium hydrochloride to 180° C. for 6 h. After cooling water is added and the reaction mass is extracted with xylene. The product is distilled after evaporation of xylene at 130° C./0.01 Torr and recrystallized from petrol ether (80–110 to yield colourless crystals (mp 102° C.).

reactant | 4-(2-t-Butyl-5-methylphenoxy)-methoxybenzene | 0.026 mol, 7.1 g | C(C)(C)(C)C1=C(OC2=CC=C(C=C2)OC)C=C(C=C1)C | C18H22O2
reactant | pyridinium hydrochloride | 0.13 mol, 15.0 g | Cl.[NH+]1=CC=CC=C1
solvent | water | O | H2O
product | 4-(2-t-Butyl-5-methylphenoxy)phenol | C(C)(C)(C)C1=C(OC2=CC=C(C=C2)O)C=C(C=C1)C | C17H20O2
